US04462943
Ethyl 2-oxo-4-phenylbutyrate (1.03 gram) and 1-(L-alanyl)-4-(S)-(phenylthio)-L-proline (0.19 gram) are dissolved in a 1:1 ethanol-water solvent. A solution of sodium cyanoborohydride (0.19 gram) in ethanol-water is added dropwise at room temperature over the course of two hours. When the reaction is completed, the product is absorbed in strong acid ion exchange resin and eluted with 2% pyridine water. The product rich cuts are freeze dried and the desired isomer is separated chromatographically to yield 1-[N-(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl]-4-(S)-(phenylthio)-L-proline.

reactant | Ethyl 2-oxo-4-phenylbutyrate | 1.03 gram | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | 1-(L-alanyl)-4-(S)-(phenylthio)-L-proline | 0.19 gram | N[C@@H](C)C(=O)N1[C@H](C(=O)O)C[C@@H](C1)SC1=CC=CC=C1 | C14H18N2O3S
reactant | sodium cyanoborohydride | 0.19 gram | C(#N)[BH3-].[Na+]
solvent | ethanol water | C(C)O.O
product | 1-[N-(1-(S)-ethoxycarbonyl-3-phenylpropyl)-L-alanyl]-4-(S)-(phenylthio)-L-proline | C(C)OC(=O)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)C[C@@H](C1)SC1=CC=CC=C1 | C26H32N2O5S
